US07569604B2
3-Methyl-2,3-dihydro-1H-indole
Skatole (26.5 g, 202 mmol) was dissolved in acetic acid (500 mL) and cooled to 15° C. Sodium cyanoborohydride (40 g, 637 mmol) was added in portions to this cooled solution. After the addition was complete, stirring was continued for 1 h at RT. Subsequently, water (100 mL) was added and after 15 min at RT, the mixture was evaporated under reduced pressure at 60° C. To the residue was added 0.5 L 5% aq. NaHCO3 and 0.5 L TBME and the organic layer was washed with 5% aq. NaHCO3 (2×250 mL), water (0.5 L), 1M aq. NaOH (100 mL), 5% aq. NaHCO3 (250 mL), and brine (250 mL). After drying over Na2SO4 and filtration, the solvent was removed by evaporation under reduced pressure. Yield: 23.3 g (87%).

reactant | Skatole | 202 mmol, 26.5 g | N1C=C(C)C2=CC=CC=C12 | C9H9N
reactant | Sodium cyanoborohydride | 637 mmol, 40 g | C(#N)[BH3-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | 3-Methyl-2,3-dihydro-1H-indole | CC1CNC2=CC=CC=C12 | C9H11N
